US04168385
Methyl (p-chlorophenoxy)[p-(p-chlorophenylsulfinyl)phenyl]acetate
To a solution of 1,8 g of methyl (p-chlorophenoxy)[p-(p-chlorophenylthio)phenyl]acetate in 10 ml of dichloromethane is added dropwise a solution of 0.891 g of 83% m-chloroperbenzoic acid in 10 ml of dichloromethane. The mixture is chilled overnight, filtered and the filtrate washed with 10% sodium sulfite solution, saturated sodium bicarbonate and sodium chloride solutions. After drying (MgSO4), the solvent is removed under reduced pressure to give a gum. Crystallization from dichloromethane-zepane given 1.65 g of product as white crystals, mp 134°-144° C.

reactant | methyl (p-chlorophenoxy)[p-(p-chlorophenylthio)phenyl]acetate | 1,8 g | ClC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)SC2=CC=C(C=C2)Cl)C=C1 | C21H16Cl2O3S
reactant | m-chloroperbenzoic acid | 0.891 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methyl (p-chlorophenoxy)[p-(p-chlorophenylsulfinyl)phenyl]acetate | ClC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)S(=O)C2=CC=C(C=C2)Cl)C=C1 | C21H16Cl2O4S
